US06310107B1
6-(4-Biphenylyl)methoxy-2-(2-iodoethyl)tetralin
To a solution of triphenylphosphine (12.5 g) in THF (200 ml) were successively added imidazole (3.25 g) and iodine (12.1 g). A solution of 6-(4-biphenylyl)methoxy-2-(2-hydroxyethyl)tetralin (13.15 g) in THF (100 ml) was added to the reaction mixture at room temperature. The reaction mixture was stirred at room temperature for 5 min, diluted with water, and extracted with ethyl acetate. The organic layer was washed with aqueous sodium thiosulfate and saturated aqueous sodium chloride, dried, and concentrated. The residue was purified by silica gel column chromatography (eluent; toluene) to obtain the titled compound (13.2 g).

reactant | triphenylphosphine | 12.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 3.25 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 12.1 g | II | I2
reactant | 6-(4-biphenylyl)methoxy-2-(2-hydroxyethyl)tetralin | 13.15 g | C1(=CC=C(C=C1)COC=1C=C2CCC(CC2=CC1)CCO)C1=CC=CC=C1 | C25H26O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-(4-Biphenylyl)methoxy-2-(2-iodoethyl)tetralin | 13.2 g | C1(=CC=C(C=C1)COC=1C=C2CCC(CC2=CC1)CCI)C1=CC=CC=C1 | C25H25IO
